US06864265B2
Preparation of 4,5-Diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
Reaction of 4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (304 mg, 0.87 mmol), 2.5 M n-BuLi (452 uL, 1.13 mmol), and DMF (269 uL, 3.48 mmol) for 1 h at −40° C. gave the title compound (257 mg, 78%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ0.00 (s, 9H), 0.89 (t, 2H, J=9.0 Hz), 3.58 (t, 2H, J=7.75 Hz), 5.61 (s, 2H), 7.26 (br s, 5H), 7.47 (br s, 5H), 9.95 (s, 1H).

reactant | 4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 0.87 mmol, 304 mg | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)COCC[Si](C)(C)C | C21H26N2OSi
reactant | n-BuLi | 1.13 mmol, 2.5 M, 452 uL | [Li]CCCC
reactant | DMF | 3.48 mmol, 269 uL | CN(C)C=O | C3H7NO
product | 4,5-Diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 257 mg, 78% | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)C=O | C22H26N2O2Si
